US07745438B2
Butyric acid (2R,5R)-5-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-morpholin-2-ylmethyl ester hydrochloride
To (R)-5-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester (0.022 g, 0.043 mmol) add 4 M hydrogen chloride in 1,4-dioxane (0.500 mL, 2.00 mmol) and stir for 45 minutes. Concentrate under reduced pressure to give the title compound as an off-white solid (20.0 mg, 100%).

reactant | (R)-5-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 0.043 mmol, 0.022 g | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)COC(CCC)=O | C25H36F2N2O7
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | 1,4-dioxane | 2.00 mmol, 0.500 mL | O1CCOCC1 | C4H8O2
product | Butyric acid (2R,5R)-5-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-morpholin-2-ylmethyl ester hydrochloride | 20.0 mg, 100% | Cl.C(C)(=O)N[C@H]([C@H](O)[C@H]1CO[C@H](CN1)COC(CCC)=O)CC1=CC(=CC(=C1)F)F | InChI=1S/C20H28F2N2O5.ClH/c1-3-4-19(26)29-10-16-9-23-18(11-28-16)20(27)17(24-12(2)25)7-13-5-14(21)8-15(22)6-13;/h5-6,8,16-18,20,23,27H,3-4,7,9-11H2,1-2H3,(H,24,25);1H/t16-,17+,18-,20+;/m1./s1
